US05049551
Preparation of 2'-deoxy-5'-O-trityl-5-fluorouridine (13)
In 2.5 ml of pyridine were dissolved 0.25 g of 2'-deoxy-5-fluorouridine and 0.34 g of trityl chloride, and the solution was reacted at 60° C. for 4 hours under stirring. After completion of the reaction, the reaction mixture was poured into 80 ml of ice-cold water and precipitated crystals were collected by filtration. These crystals were dissolved in 30 ml of ethyl acetate, washed with saturated saline solution, dried over anhydrous magensium sulfate and condensed under reduced pressure. The residue obtained was applied to silica gel column chromatography to give 0.28 g (Yield: 56%) of the title compound.

reactant | 2'-deoxy-5-fluorouridine | 0.25 g | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O5
reactant | trityl chloride | 0.34 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
product | 2'-deoxy-5'-O-trityl-5-fluorouridine | 0.28 g, Yield: 56% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O | C28H25FN2O5
